US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2-methylacryloyl chloride, there is obtained ethyl N-(2-methylacryloyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 334 (20), 305 (16), 293 (7), 194 (100), 167 (29), 69 (21), 41 (30);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2-methylacryloyl chloride | CC(C(=O)Cl)=C | C4H5ClO
product | ethyl N-(2-methylacryloyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | CC(C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2)=C | C21H22N2O2
